US03975435
Preparation of 3,4-Dichloro-4'-(trifluoromethoxy)cinnamanilide
p-Aminophenyl trifluoromethyl ether (0.7 g) pyridine (30 ml) and 3,4-dichlorocinnamoyl chloride (1 g) in dioxane (5 ml) were agitated and heated 3 hours at 80°-90° in a suitable flask fitted with a reflux condenser. The reaction mixture was then poured into 2 l. of ice-water containing conc. hydrochloric acid (50 ml). The crude product was filtered, washed with water and dried. It was recrystallized first from a blend of toluene (50 ml) and hexane (60 ml) and then from toluene (16 ml) and hexane (60 ml).

reactant | p-Aminophenyl trifluoromethyl ether | 30 ml, 0.7 g | FC(F)(F)OC1=CC=C(C=C1)N | C7H6F3NO
reactant | 3,4-dichlorocinnamoyl chloride | 1 g | ClC=1C=C(C=CC(=O)Cl)C=CC1Cl | C9H5Cl3O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 3,4-Dichloro-4'-(trifluoromethoxy)cinnamanilide | ClC=1C=C(C=CC(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=CC1Cl | C16H10Cl2F3NO2
